US05073629
Fifteen milligrams of 3,3-diphenyl-4-oxo-hexanol (0.043 mmol) was dissolved in DMSO (1 ml). A 10 mg/ml thyroglobulin solution was prepared by dissolving 170 mg of thyroglobulin in 17 ml 0.05M phosphate buffer, pH 9.0. While stirring, the dissolved hapten was added dropwise to the thyroglobulin solution. The hapten vial was rinsed with an additional 0.5 ml DMSO and added dropwise to the solution. The resultant mixture was stirred at room temperature for 1 hour. Five milligrams of sodium cyanoborohydride was added to the mixture, and the solution was stirred at room temperature for 0.5 hours. The pH of the solution was adjusted to 7.5 with 0.1N HCl. An additional 5.0 mg sodium cyanoborohydride was added, and the solution was again stirred for 0.5 hours. This was repeated once more, for a total addition of 15.0 mg sodium cyanoborohydride. This solution was dialyzed against 0.05M phosphate buffer (pH 7.5). The solution was clarified by centrifuging for 10 min at 4000 rpm to produce a solution of 3,3-diphenyl-4-oxo-hexanal, thyroglobulin immunogen.

reactant | 3,3-diphenyl-4-oxo-hexanol | 0.043 mmol, Fifteen milligrams | C1(=CC=CC=C1)C(CCO)(C(CC)=O)C1=CC=CC=C1 | C18H20O2
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
solvent | phosphate | 0.05M, 17 ml | P(=O)([O-])([O-])[O-]
product | 3,3-diphenyl-4-oxo-hexanal | C1(=CC=CC=C1)C(CC=O)(C(CC)=O)C1=CC=CC=C1 | C18H18O2
